data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1789,1980,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[N:15]#[C:16][C-:17]([C:18]#[N:19])[N+:20]#[C:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)=[N:20][C:17]2([C:16]#[N:15])[C:18]#[N:19],water,298.15,16.251712295842168,-51.46905630859375
1204,1311,[CH3:13][C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:14]([CH3:13])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:15][C:16]3([C:17]#[N:18])[C:19]#[N:20],water,298.15,24.88098085307011,-17.970881013555484
3832,4386,[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[N-:16][C:17](=[O:18])[O:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:16]([C:17](=[O:18])[O:19][CH3:20])[N:14]([CH3:15])[CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,24.706599580500328,-20.033552419495248
1005,1095,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]#[N:23])[o+:24]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:21]1([C:22]#[N:23])[C:19](=[O:20])[O:18][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[O:24]1,water,298.15,12.3248974492563,-36.82024570477593
1738,1925,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:16][C:15]1([C:13]([NH:12][CH3:11])=[O:14])[C:25](=[O:26])[O:27][CH3:28],water,298.15,14.087559111904936,-42.71745475975595
2943,3283,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C-:7]([CH3:8])[N+:9]#[C:10][C:11]#[N:12]>>[CH2:1]1[CH2:2][C:7]([C:5]([O:4][CH3:3])=[O:6])([CH3:8])[N:9]=[C:10]1[C:11]#[N:12],water,298.15,13.0686906300393,-50.97116351091415
2052,2277,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH:25]#[N+:26][C-:27]([CH3:28])[C:29]#[N:30]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:27]([CH3:28])([C:29]#[N:30])[N:26]=[CH:25]2,water,298.15,16.292645266759614,-61.11487585514811
336,365,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[N-:18][C:19]#[N:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:12](=[O:13])[O:14][CH3:15])[N:16]([CH3:17])[N:18]1[C:19]#[N:20],water,298.15,18.291191716673275,-38.12810244968472
5216,5919,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[NH:30][CH3:31]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]#[N:23])([C:24](=[O:25])[NH:26][CH3:27])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:28](=[O:29])[NH:30][CH3:31],water,298.15,13.336652025331546,-31.729287444220155
1726,1911,[CH3:12][O:13][C:14](=[O:15])[CH-:16][NH+:17]=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:16]([C:14]([O:13][CH3:12])=[O:15])[NH:17][C:18]3([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,20.48802149452024,-38.3842824771979
1169,1271,[CH3:11][NH:12][C:13](=[O:14])[N:15]=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:17]([C:18](=[O:19])[O:20][CH3:21])[O:16][N:15]3[C:13]([NH:12][CH3:11])=[O:14],water,298.15,2.495417885921756,-76.60001999041164
576,632,[CH3:13][CH-:14][N+:15]#[C:16][C:17](=[O:18])[NH:19][CH3:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:17](=[O:18])[NH:19][CH3:20])=[N:15][CH:14]2[CH3:13],water,298.15,14.362727128029997,-47.820289373443615
